US04518415
A mixture of 4-(4-chlorophenyl)pent-4-en-1-ol (5.5 g) and pyridinium dichromate (14.62 g) in dichloromethane (50 ml) was stirred at room temperature for 24 hours. The mixture was diluted with diethyl ether and the solid material was filtered off. The filtrate was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to give 4-(4-chlorophenyl)pent-4-enal (2.6 g, 48%) as a yellow oil, 1H nmr (CDCl3): 9.75 (1H, broad singlet, CHO), 1R (film): 1720 cm-1.

reactant | 4-(4-chlorophenyl)pent-4-en-1-ol | 5.5 g | ClC1=CC=C(C=C1)C(CCCO)=C | C11H13ClO
reactant | pyridinium dichromate | 14.62 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(4-chlorophenyl)pent-4-enal | 2.6 g, 48% | ClC1=CC=C(C=C1)C(CCC=O)=C | C11H11ClO
